US04963543
To a solution of (2S,4S)-4-acetylthio-2-(2-hydroxyethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.1 g) in acetonitrile (20 ml) was added chlorosulfonyl isocyanate (0.32 ml) at 0°-5° C. and the mixture was stirred at 20°-25° C. for 1 hour. Water (3 ml) was added to the solution at the same temperature and the mixture was stirred for 20 hours. After the solvent was evaporated, the residue was dissolved in ethyl acetate, washed with water, saturated sodium bicarbonate and brine successively. The dried organic layer was evaporated to give (2S,4S)-4-acetylthio-2-(2-carbamoyloxyethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.19 g).

reactant | (2S,4S)-4-acetylthio-2-(2-hydroxyethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.1 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCO | C17H22N2O7S
reactant | chlorosulfonyl isocyanate | 0.32 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Water | 3 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (2S,4S)-4-acetylthio-2-(2-carbamoyloxyethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.19 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCOC(N)=O | C18H23N3O8S
